US09023847B2
58. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(2-fluoro-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 2-fluorobenzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 410 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.46-11.56 (1H, m) 10.26 (1H, s) 8.03 (1H, t, J=5.56 Hz) 7.99 (1H, d, J=5.47 Hz) 7.75 (1H, d, J=5.47 Hz) 7.44 (1H, d, J=5.47 Hz) 7.37-7.42 (1H, m) 7.26-7.30 (1H, m) 7.19-7.26 (1H, m) 7.05-7.12 (1H, m) 6.78 (1H, d, J=5.47 Hz) 6.40 (1H, dd, J=3.61, 1.66 Hz) 3.70 (2H, s) 3.32-3.37 (2H, m) 2.62 (2H, t, J=6.54 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(2-fluoro-benzylamino)-ethyl]-amide | FC1=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=CC=C1 | C21H20FN5OS
